US06436923B1
F. 2-(4-Fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline
To a solution of 2-(4-fluorophenyl)-1-(4-hydroxybenzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.500 g, 1.14 mmol) in DMF (5 ml) was added potassium carbonate (0.236 g, 1.7 mmol) and the resulting mixture allowed to stir for twenty minutes. To the reaction mixture was added 2-(2-chloroethyl)-N-methyl-piperidine (0.271 g, 1.37 mmol). The reaction was allowed to stir overnight. The reaction was diluted with water and extracted with ethyl acetate. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. The product was purified by radial chromatography (100% CH2Cl2, then CH2Cl2/MeOH, 95:5) to yield the title compound (0.043 g, 7% yield): ES-MS (m/z) 565 [M+H]+.

reactant | 2-(4-fluorophenyl)-1-(4-hydroxybenzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 1.14 mmol, 0.500 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)O | C29H26FNO2
reactant | potassium carbonate | 1.7 mmol, 0.236 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-chloroethyl)-N-methyl-piperidine | 1.37 mmol, 0.271 g | ClCCC1N(CCCC1)C | C8H16ClN
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.043 g, 7% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC1N(CCCC1)C | C37H41FN2O2
